US08044052B2
tert-Butyl 4-(bromo(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate
To a solution of tert-butyl 4-bromo-4-(bromo(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methyl)piperidine-1-carboxylate (890 mg, 1.50 mmol) in MeOH (5 mL) was added 2N NaOH (3 mL). The reaction was stirred at 40° C. for 14 h. The reaction was concentrated and the residue was dissolved in ethyl acetate. Water was added and the pH was adjusted to 2 using concentrated HCl. The organic layer was concentrated and the residue was purified by silica gel column chromatography (0-5% MeOH/CH2Cl2) to afford the title compound (425 mg, 55% yield) as a white solid.

reactant | tert-butyl 4-bromo-4-(bromo(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methyl)piperidine-1-carboxylate | 1.50 mmol, 890 mg | BrC1(CCN(CC1)C(=O)OC(C)(C)C)C(C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)Br | C23H25Br2F3N2O3
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | tert-Butyl 4-(bromo(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate | 425 mg, 55% yield | BrC(=C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H24BrF3N2O3
